US08378058B2
2,5-Dibromo-3-formylthiophene (1)
Thiophene-3-carboxaldehyde (2.54 g, 22.8 mmol) was mixed with 48% aqueous hydrobromic acid (6.8 mL), and ether (6 mL), then cooled at 0° C. A mixture of bromine (7.36 g, 46.0 mmol) and 48% aqueous hydrobromic acid (6.8 mL) was added dropwise under vigorous stir. The reaction mixture was then heated at 50° C. and reacted for 4 h. After reaction, the mixture was diluted with water (100 mL) and extracted with ether (3×50 mL). The organic layers were combined, washed with 10% sodium thiosulfate solution (2×15 mL) and water (30 mL), and dried (Na2SO4). The solvent was removed under reduced pressure to give dark crude product. The crude product was purified by column chromatography on silica gel (hexane/ethyl acetate=5:1). (4.32 g, 70%). 1H NMR (400 MHz, CDCl3, δ/ppm) 9.80 (s, 1H, CHO), 7.34 (s, 1H);

reactant | Thiophene-3-carboxaldehyde | 22.8 mmol, 2.54 g | S1C=C(C=C1)C=O | C5H4OS
reactant | hydrobromic acid | 6.8 mL | Br | BrH
reactant | ether | 6 mL | CCOCC | C4H10O
reactant | bromine | 46.0 mmol, 7.36 g | BrBr | Br2
reactant | hydrobromic acid | 6.8 mL | Br | BrH
solvent | water | 100 mL | O | H2O
product | 2,5-Dibromo-3-formylthiophene | BrC=1SC(=CC1C=O)Br | C5H2Br2OS
